US07915443B2
(S)-2-hydroxy-5-{[5-({[methyl(oxo)phenyl-λ6-sulfanylidene]amino}carbonyl)pyridin-3-yl]ethynyl}benzoic acid
In a manner similar to that describe in Example 434, a mixture of (S)-5-ethynyl-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide and 5-iodosalicyclic acid were reacted to give the title compound as a light tan solid (28 mg, 45%).

reactant | (S)-5-ethynyl-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | C(#C)C=1C=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C1 | C15H12N2O2S
reactant | 5-iodosalicyclic acid | IC1=CC=C(C(C(=O)O)=C1)O | C7H5IO3
product | (S)-2-hydroxy-5-{[5-({[methyl(oxo)phenyl-λ6-sulfanylidene]amino}carbonyl)pyridin-3-yl]ethynyl}benzoic acid | 28 mg, 45% | OC1=C(C(=O)O)C=C(C=C1)C#CC=1C=NC=C(C1)C(=O)N=[S@](C1=CC=CC=C1)(=O)C | C22H16N2O5S
